2108-04-16 08:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yo M severe COPD on 4L home O2, CAD s/p MI, who presents with
   increased somnolence
   24 Hour Events:
   Overnight he remained stable on the floor, with 2-4L O2 requirement
   He was seen by neurology with no focal neurologic deficits but given
   his history of prior CVAs it was felt that he should have CTA
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Azithromycin - [**2108-4-16**] 03:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   bactrim
   caco3
   vitd
   fluticasone
   spiriva
   colace
   zoloft 50
   singulair
   lisinopril
   finasteride
   asa 81
   protonix
   heparin 5000 tid
   albuterol
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-4-16**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 86 (86 - 100) bpm
   BP: 120/69(80) {105/50(63) - 152/70(93)} mmHg
   RR: 19 (19 - 26) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.8 kg (admission): 48.8 kg
             Total In:
             1,332 mL
   PO:
             30 mL
   TF:
   IVF:
   302 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    440 mL
   Urine:
   240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    892 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.38/80.[**Numeric Identifier 248**]/52//16
   Physical Examination
   General Appearance: Thin, cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Decreased
   Labs / Radiology
        [image002.jpg]
                             [**2108-4-16**]  03:46 AM
   TCO2
   49
   Other labs: Lactic Acid:1.9 mmol/L
   Assessment and Plan
   69 yo M severe COPD on 4L home O2, CAD, back pain, presents with
   hypercarbic respiratory failure after increased pain medication use
   1. Hypercarbic respiratory failure: does not appear to be COPD
   exacerbation given abscence of wheeze or other symptoms, most likely
   CO2 narcosis and hypoventilation in setting of increased percocet and
   fentanyl use.
    - will d/c steroids and abx
    - cont supplemental O2 with aim 88-92%
    - cont albuterol and atrvent prn, advair, spiriva, singulair
    - continuing bactrim for now but will touch base with PCP regarding
   need for this medication
    - will contact Dr [**Name (NI) 2045**] regarding current admission
   2. Aggitation/confusion: likely [**2-7**] narcotics and worsened by narcan
   administration, head CT within normal limits
    - would defer CTA for now given absence of focal findings
    - will f/u with neurology
   3. Pain: unclear if increased pain needs or confusion regarding his
   pain regimen
    - will contact pain and palliative care who have followed him in the
   past
    - limit percocet administration
   4. CAD: cont asa, statin
   5. HTN: cont lisinopril
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2108-4-16**] 03:12 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2108-04-17 07:02:00 Physician Resident Progress Note
Chief Complaint: 69-year-old M with severe COPD on home 4L NC, HTN, CAD
   (s/p NSTEMI), depression and chronic back pain who presented with AMS,
   hypercarbic respiratory distress
   24 Hour Events:
   -Palliative care involved: patient still much more lethargic than
   baseline. Changed to standing tylenol. Left other recs for
     low dose pain medications to try prn but patient not in acute pain
   overnight
   - Patient placed back on home dose of 20mg PO prednisone
   - Given 2L of NS boluses to keep MAP>65
   - Patient tolerated BIPAP for most of night, occasionally anxious and
   tachycardic but redirectable
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Azithromycin - [**2108-4-16**] 03:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-4-17**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 91 (85 - 105) bpm
   BP: 117/54(69) {84/40(50) - 120/56(70)} mmHg
   RR: 25 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.8 kg (admission): 48.8 kg
             Total In:
                                                                  3,830 mL
                                                                    310 mL
   PO:
                                                                    270 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,560 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    400 mL
   Urine:
                                                                    755 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,875 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.40/74/96.[**Numeric Identifier 244**]//16
   Physical Examination:
   General:  alert and oriented x2 today, NAD, resting on 4L NC
   HEENT: OP clear, PERRL, EOMI, NC in nose
   Lungs: diffuse wheezes with expiration over both lung fields
   Abd: nontender / nondistended , NABS
   CVS; s1/s2 reg, RRR, no murmurs
   Ext: thin, cachectic appearing extremities, 2+ pedal pulses, no edema
   Neuro
 CN 2-12 in tact, moving all extremities
   Labs / Radiology
   UPDATED LABS [**4-17**]:  Wbc 11.6, Hct 28.6, Plts 279, Na 140, K 4.7, Cl 95,
   HCO3 37, Cr .6 BUN 17, glu 88, phos 1.7, Mg 2.5, Ca 8.6
   UA negative
   268 K/uL
   9.7 g/dL
   143 mg/dL
   0.7 mg/dL
   42 mEq/L
   4.9 mEq/L
   17 mg/dL
   91 mEq/L
   140 mEq/L
   33.3 %
   6.9 K/uL
        [image002.jpg]
   Blood Cx
 NGTD
                             [**2108-4-16**]  03:46 AM
                             [**2108-4-16**]  06:13 AM
                             [**2108-4-16**]  05:23 PM
   WBC
   6.9
   Hct
   33.3
   Plt
   268
   Cr
   0.7
   TCO2
   49
   48
   Glucose
   143
   Other labs: PT / PTT / INR:11.7/29.7/1.0, ALT / AST:[**12-23**], Alk Phos / T
   Bili:73/0.2, Differential-Neuts:91.5 %, Lymph:6.9 %, Mono:1.1 %,
   Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL, LDH:173 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   69-year-old male with severe COPD on home 4L NC, HTN, hyperlipidemia,
   CAD (s/p , GERD, depression and chronic back pain on multiple sedating
   pain medications and psychiatric medications who presented with AMS,
   hypercarbic respiratory distress.
   .
   #Hypercarbic respiratory distress / COPD : Most likely etiology is
   narcotic and BZD induced respiratory depression atop of his usual COPD
   retainer status at baseline. Patient is taking fentanyl patch, Percocet
   & Ativan at home.  Unlikely an underlying infection with  COPD
   exacerbation given his normal WBC count, lack of fevers, and normal
   CXR. Also unclear if he is compliant with his home oxygen.
   .
   -plan to continue on 4L NC with goal O2 sats >90%
   -f/up interval CXR read today
   -f/up blood cultures
   -continue on albuterol, ipratropium nebs q4hrs PRN
   -continue current 20mg Prednisone for COPD, adding Azithromycin as well
   x 5 days
   -continue daily Advair
   -continue PPx Bactrim)
   .
   #agitation/confusion: Likely secondary to hypercarbia and narcotics as
   outlined above. Half life of recently removed fentanyl patches ( 2)
   still lingering x 24 hours. CT head r/o any acute process.
   -continue to monitor O2 sats, ABGs
   - place order for ativan PRN
   -can add PRN Haldol if becomes belligerent  or refractory to Ativan
   - consider repeat ABD
   .
   #Right sided weakness: Subtle weakness with right sided hand grasp,
   other CNs [**2-17**] all normal on exam. Neurology service saw patient in ED
   and felt no acute exam focal findings, CT head negative. Recommended a
   f/up CTA which was ordered in ED. Recent slurred speech resolved now
   and was most likely secondary to his narcotics.
   -ff/up additional neurology recs
   -repeat neuro exam in afternoon , currently unremarkable
   .
   #Coronary Artery Disease: Past medical history significant for prior
   NSTEMI in [**2101**]. He has no c/o current chest pain or palpitations.
   -continue on telemetry
   -continue usual home daily ASA 81mg
   -continue daily pravastatin
   #. Hypertension: Currently normotensive and stable. BPs in
   120-130s/60-70s range.
   - continue on home Lisinopril 5 mg daily
   .
   #Depression: Mood stable. Denies any suicidal ideation.
   - continue Sertraline 50 mg
   - hold Ativan for now given recent over-sedation
   - SW consult
   .
   #. Chronic Back Pain:  Given concern for decreased respirations and
   somnolence with hypercarbia will hold sedating narcotics for now.
   Palliative and pain service now following.
   - f/up additional palliative team recs, appreciate input
   - continue on ATC Tylenol,
   - start lidocaine patch today
   -will add low dose PRN oxycodone once more stable
   -holding fentanyl patch and percocet
   -.
   #. GERD: Denies active reflux symptoms, stable without complaints.
   -continue on home Protonix 40mg PO daily
   .
   #BPH: urine output currently within normal limits, will plan to
   continue usual home Finasteride 5mg PO daily
   .
   #FEN:  cardiac diet
   #Access: got 20g and 22g
   #PPX: continue usual home PPI as above, bowel regimen with Senna,
   Colace, Miralax and Lactulose home regimen
   #Dispo: ICU for BIPAP, if stable and improves possible call out
   #Code: DNR/DNI, discussed with wife/HCP and patient
   **** WILL PLAN FOR DETAILED GOALS OF CARE DISCUSSION this afternoon
   with palliative care, attending and wife as patient seems near hospice
   level care now
   #Communication: with wife (also HCP), [**Name (NI) 8192**] [**Name (NI) 4680**] #[**Telephone/Fax (1) 8193**], cell
   [**Telephone/Fax (1) 9457**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-4-16**] 03:12 AM
   20 Gauge - [**2108-4-16**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-04-17 10:47:00 Physician Attending Progress Note
Chief Complaint:  Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yo M COPD here with hypercarbic respiratory failure
   24 Hour Events:
   tolerated BiPAP overnight
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Azithromycin - [**2108-4-16**] 03:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-4-17**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 99 (85 - 105) bpm
   BP: 90/190(115) {84/40(50) - 121/190(115)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.8 kg (admission): 48.8 kg
             Total In:
                                                                  3,830 mL
                                                                    584 mL
   PO:
                                                                    270 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,560 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    400 mL
   Urine:
                                                                    755 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,875 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.40/74/96.[**Numeric Identifier 244**]/37/16
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, bipap in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   279 K/uL
   88 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.7 mEq/L
   17 mg/dL
   95 mEq/L
   140 mEq/L
   28.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2108-4-16**]  03:46 AM
                             [**2108-4-16**]  06:13 AM
                             [**2108-4-16**]  05:23 PM
                             [**2108-4-17**]  05:45 AM
   WBC
   6.9
   11.6
   Hct
   33.3
   28.6
   Plt
   268
   279
   Cr
   0.7
   0.6
   TCO2
   49
   48
   Glucose
   143
   88
   Other labs: PT / PTT / INR:11.2/28.8/0.9, ALT / AST:[**12-23**], Alk Phos / T
   Bili:73/0.2, Differential-Neuts:91.5 %, Lymph:6.9 %, Mono:1.1 %,
   Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL, LDH:173 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR: hyperinflated lungs bilateally, no infiltrate
   Assessment and Plan
   69 yo M COPD here with hypercarbic respiratory failure
   1. Hypercarbic respiratory failure:
    - intermittent Bipap, anxiety with hypoxemia
    - will attempt to get him to standing regimen of bipap at night, off
   during the day
    - will add azithromycin for possible COPD exacerbation
    - cont advair, spiriva, singulair, nebs as tolerated
   Prognosis is grave given severity of underlying COPD
   2. Agitation/confusion:
    - cont PRN ativan carefully
    - he may benefit from standing anxiolytic
   3. ? right-sided weakness, no current evidence of this and head CT
   within normal limits
    - daily neuro checks
   4. CAD: cont asa, statin
   5. HTN: cont lisinopril
   6. PAIN: chronic low back pain
     - cont standing tylenol, would add oxycodone and lido patch if not
   meeting his pain meds
   7.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-4-16**] 03:12 AM
   20 Gauge - [**2108-4-16**] 01:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2108-04-18 06:23:00 Physician Resident Progress Note
Chief Complaint: 69-year-old M with severe COPD on home 4L NC, HTN, CAD
   (s/p NSTEMI), depression and chronic back pain who presented with AMS,
   hypercarbic respiratory distress
   24 Hour Events:
   - agitated, better with ativan
   - family mtng in pm: no further bipap unless pt wants it. focus on
   comfort - ok to continue copd meds, abx. started clonazepam, prn ativan
   and morphine.
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Azithromycin - [**2108-4-16**] 03:18 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2108-4-17**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-4-18**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 112 (90 - 122) bpm
   BP: 122/52(68) {90/46(60) - 173/190(115)} mmHg
   RR: 21 (19 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 48.8 kg (admission): 48.8 kg
             Total In:
                                                                    960 mL
                                                                     50 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    300 mL
   Urine:
                                                                  1,260 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination:
   .
   General: thin and frail appearing, alert and oriented x2 today, NAD,
   resting on 4L NC
   HEENT: PERRL, EOMI, clear oropharynx
   RESP: bilateral  diffuse wheezes posteriorly
   ABD: soft,  nontender / nondistended , normoactive bowel sounds
   CVS: s1/s2 reg, RRR, no murmurs or rubs
   Ext:  2+ pedal pulses, no edema, wasted and thin extremities
   Neuro:  CNs [**2-17**] in tact, moving all extremities
   Labs / Radiology
   279 K/uL
   8.6 g/dL
   88 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.7 mEq/L
   17 mg/dL
   95 mEq/L
   140 mEq/L
   28.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2108-4-16**]  03:46 AM
                             [**2108-4-16**]  06:13 AM
                             [**2108-4-16**]  05:23 PM
                             [**2108-4-17**]  05:45 AM
   WBC
   6.9
   11.6
   Hct
   33.3
   28.6
   Plt
   268
   279
   Cr
   0.7
   0.6
   TCO2
   49
   48
   Glucose
   143
   88
   Other labs: PT / PTT / INR:11.2/28.8/0.9, ALT / AST:[**12-23**], Alk Phos / T
   Bili:73/0.2, Differential-Neuts:91.5 %, Lymph:6.9 %, Mono:1.1 %,
   Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL, LDH:173 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan:
   69-year-old male with severe COPD on home 4L NC, HTN, hyperlipidemia,
   CAD (s/p , GERD, depression and chronic back pain on multiple sedating
   pain medications and psychiatric medications who presented with AMS,
   hypercarbic respiratory distress.
   .
   # severe COPD & Hypercarbic respiratory distress:  Initial
   desaturations and hypercarbia was felt to be narcotic related and BZD
   induced respiratory depression. He is also a COPD retainer at baseline.
   Patient had been taking fentanyl patches, Percocet & Ativan at home.
   Clean cultures, no fevers, no initial leukocytosis and CXR with no
   infiltrates so an underlying infection with  COPD exacerbation was less
   likely. Moreover, he has no sputum changes or worse cough from usual
   baseline . Also unclear if he is compliant with his home oxygen.  Now
   after palliative discussion, goal moving toward [**Month/Year (2) 617**] with patient.
   .
   - appreciate input/meetings with palliative team given patient
   advanced end stage COPD status, moving to [**Month/Year (2) 617**] goals
   -plan to continue on 4L NC with goal O2 sats >90%
   -Bipap ONLY if patient requests, opting for minimal interventions at
   this juncture
   -f/up blood cultures
   -continue on albuterol, ipratropium nebs PRN
   - added morphine PRN for severe dyspnea
   -continue current 20mg Prednisone for COPD
   -continue on Azithromycin as well x 5 days ( today is day 2, started
   [**4-17**])
   -continue daily Advair
   -continue PPx Bactrim for now
   .
   #agitation/confusion: Improving slowly. Likely secondary to hypercarbia
   and narcotics as outlined above. On admission was worse likely from
   narcotic use at home.  CT head r/o any acute process.
- continue on current Klonopin  .5mg [**Hospital1 **]
   --continue on Ativan PRN
   -can add PRN Haldol if becomes belligerent  or refractory to BZDs
   .
   #Right sided weakness: Subtle weakness with right sided hand grasp,
   other CNs [**2-17**] all normal on exam. Neurology service saw patient in ED
   and felt no acute exam focal findings, CT head negative. Recent slurred
   speech resolved now and was most likely secondary to his narcotics.
   -f/up additional neurology recs
   -repeat neuro exam in afternoon , currently unremarkable
   .
   #Coronary Artery Disease: Past medical history significant for prior
   NSTEMI in [**2101**]. He has no c/o current chest pain or palpitations.
   -continue on telemetry
   -continue usual home daily ASA 81mg
   -continue daily pravastatin
   #. Hypertension: Currently normotensive to slightly hypotensive . BPs
   in 100-130s/60-70s range.
   - continue on home Lisinopril 5 mg daily
   - if pressures continue to drop consider d/c ACE and IVFs
   .
   #Depression: Mood stable. Denies any suicidal ideation.
   - continue Sertraline 50 mg
   - Klonopin, Ativan as above for anxiety and agitation
   - SW consult
   .
   #. Chronic Back Pain:  Given concern for decreased respirations and
   somnolence with hypercarbia will hold sedating narcotics for now.
   Palliative and pain service now following.
   - f/up additional palliative team recs, appreciate input
   - continue on ATC Tylenol
   - continue  lidocaine patch
   - on Morphine PRN as well
   - avoiding fentanyl patch and percocet
   -.
   #. GERD: Denies active reflux symptoms, stable without complaints.
   -continue on home Protonix 40mg PO daily
   .
   #BPH: urine output currently within normal limits, will plan to
   continue usual home Finasteride 5mg PO daily
   - will consider d/c non-essential meds soon as patient moving toward
   [**Year (4 digits) 617**]
   .
   #FEN:  cardiac diet
   #Access: got 20g and 22g
   #PPX: continue usual home PPI as above, bowel regimen with Senna,
   Colace, Miralax and Lactulose home regimen
   #Dispo: moving towards [**Year (4 digits) 617**] now, keeping patient comfortable with pain
   meds, anxiolytics and oxygen
 likely call out to floor or [**Hospital1 169**] placement
   #Code: DNR/DNI, discussed with wife/HCP and patient
 [**Name (NI) 617**]
   #Communication: with wife (also HCP), [**Name (NI) 8192**] [**Name (NI) 4680**] #[**Telephone/Fax (1) 8193**], cell
   [**Telephone/Fax (1) 9457**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-4-16**] 03:12 AM
   20 Gauge - [**2108-4-16**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-04-18 12:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yo M with endstage COPD on 4L O2 at home, presented with increased
   somnolence, possibilty related to increase opiate use, initially
   improved with BiPAP
   24 Hour Events:
   Family meeting yesterday with wife, palliative care, RN and medical
   team.
   The patient stated that he did not want any further bipap or treatment
   for COPD other than that which would allow him to be comfortable.
   Some aggitation overnight for which he received ativan
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Azithromycin - [**2108-4-16**] 03:18 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2108-4-17**] 04:00 PM
   Morphine Sulfate - [**2108-4-18**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-4-18**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 109 (98 - 122) bpm
   BP: 97/54(63) {89/46(60) - 132/63(88)} mmHg
   RR: 23 (21 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 48.8 kg (admission): 48.8 kg
             Total In:
                                                                    960 mL
                                                                    559 mL
   PO:
                                                                    720 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    240 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    560 mL
   Urine:
                                                                  1,260 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Overweight / Obese, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Paradoxical), (Percussion:
   Resonant : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Decreased
   Labs / Radiology
   8.6 g/dL
   279 K/uL
   88 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.7 mEq/L
   17 mg/dL
   95 mEq/L
   140 mEq/L
   28.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2108-4-16**]  03:46 AM
                             [**2108-4-16**]  06:13 AM
                             [**2108-4-16**]  05:23 PM
                             [**2108-4-17**]  05:45 AM
   WBC
   6.9
   11.6
   Hct
   33.3
   28.6
   Plt
   268
   279
   Cr
   0.7
   0.6
   TCO2
   49
   48
   Glucose
   143
   88
   Other labs: PT / PTT / INR:11.2/28.8/0.9, ALT / AST:[**12-23**], Alk Phos / T
   Bili:73/0.2, Differential-Neuts:91.5 %, Lymph:6.9 %, Mono:1.1 %,
   Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL, LDH:173 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   69 yo M with endstage COPD on 4L O2 at home, presented with increased
   somnolence, possibilty related to increase opiate use, initially
   improved with BiPAP.  the patient has now expressed his desire for no
   further bipap or aggressive medical treatment.
   1. aggitation/anxiety:
    - cont ativan as needed
    - klonopin tid
    - haldol 1mg [**Hospital1 **]
    - sertraline
   2. COPD exacerbation: stable
    - cont prednisone 20 mg
    - cont azithro and bactrim per patient's request
    - cont albuterol/atrovent, advair
   3. CAD: off statin, lisinopril
   4. Pain: lidocaine patch, standing tylenol
   5. Dispo:
    - patient and wife has said that he would not like to die at home
    - will work on transfer to hospice facility
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-4-16**] 03:12 AM
   20 Gauge - [**2108-4-16**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill